US08076348B2
9-Oxo-9H-indeno[2,1-c]pyridine-7-carboxylic acid was obtained by allowing 4-pyridin-4-ylphthalic acid [FAB: 244 (M+H)+] which had been synthesized by carrying out the same operations of Reference Examples 27 and 28 using 4-bromoisophthalic acid diethyl ester and 4-pyridine boronic acid to undergo the reaction with lithium 2,2,6,6-tetramethylpiperidide at 0° C. in THF. By carrying out reaction of this compound by the same method of Reference Example 30, ethyl 9-oxo-9H-indeno[2,1-c]pyridine-7-carboxylate was obtained. FAB: 254 (M+H)+.

reactant | 4-pyridin-4-ylphthalic acid | N1=CC=C(C=C1)C=1C=C(C(C(=O)O)=CC1)C(=O)O | C13H9NO4
reactant | 4-bromoisophthalic acid diethyl ester | C(C)OC(C1=CC(C(=O)OCC)=C(C=C1)Br)=O | C12H13BrO4
reactant | 4-pyridine boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | lithium 2,2,6,6-tetramethylpiperidide | [Li]N1C(CCCC1(C)C)(C)C
solvent | THF | C1CCOC1 | C4H8O
product | ethyl 9-oxo-9H-indeno[2,1-c]pyridine-7-carboxylate | O=C1C=2C=C(C=CC2C2=C1C=NC=C2)C(=O)OCC | C15H11NO3
